US07652053B2
cis-(5-Chloro-indan-2-ylmethyl)-[4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexyl]-amine
This compound was prepared from the hydrochloride salt of cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine and 5-chloro-indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C25H30ClN3 (m/e) calcd 407.2128, obsd 408.2 (M+H).

reactant | cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)N)C=CC(=C2)C | C15H21N3
reactant | 5-chloro-indan-2-carbaldehyde | ClC=1C=C2CC(CC2=CC1)C=O | C10H9ClO
product | cis-(5-Chloro-indan-2-ylmethyl)-[4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexyl]-amine | ClC=1C=C2CC(CC2=CC1)CN[C@@H]1CC[C@@H](CC1)N1C(=NC2=C1C=CC(=C2)C)C | C25H30ClN3
